US09238656B2
1S,2S,3R,4R)-3-[6-Chloro-2-(3-fluoro-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound CXXVIII)
In a similar fashion compound to CXXV, (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (50.00 mg, 0.1702 mmol), 3-FC6H4CHO (23.2 mg, 0.187 mmol) and Ammonium acetate (26.2 mg, 0.340 mmol) were reacted to yield 37.94 mg (56%) of the title compound. (300 MHz, DMSO-d6) 13.40 (s, 1H), 7.99 (m, 2H), 7.91 (s, 1H), 7.78 (s, 1H), 7.60 (s, 1H), 7.29 (m, 3H), 6.39 (s, 2H), 5.15 (m, 1H), 2.90 (s, 1H), 2.80 (s, 1H), 2.62 (s, 1H), 2.26 (s, 1H), 1.38 (s, 1H). MS=398 (M+H), HPLC: 2.55 min. (G Method)

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.1702 mmol, 50.00 mg | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Cl | C13H16ClN5O
reactant | 3-FC6H4CHO | 0.187 mmol, 23.2 mg | FC=1C=C(C=CC1)C=O | C7H5FO
reactant | Ammonium acetate | 0.340 mmol, 26.2 mg | C(C)(=O)[O-].[NH4+]
product | 3-[6-Chloro-2-(3-fluoro-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 37.94 mg, 56% | ClC=1C(=C2C(=NC1)NC(=N2)C2=CC(=CC=C2)F)NC2C(C1C=CC2C1)C(=O)N | C20H17ClFN5O
